US06197750B1
A solution of 2-cyano-acetanilide (0.801 g, 5.0 mmol) and tri-n-butyltin azide (2.05 mL, 7.5 mmol) in anhydrous toluene (10 mL) was heated at reflux for 48 hrs. The mixture was allowed to cool to room temperature and treated with 2.0 N HCl in Et2O (5.0 mL). The resulting precipate was collected by suction, washed with hexane and dried in vacuo to give 2-(1H-tetrazol-5-yl)acetanilide (0.917 g, 90%) as a white solid.

reactant | 2-cyano-acetanilide | 5.0 mmol, 0.801 g | C(#N)CC(=O)NC1=CC=CC=C1 | C9H8N2O
reactant | tri-n-butyltin azide | 7.5 mmol, 2.05 mL | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | HCl | 2.0 N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | 5.0 mL | CCOCC | C4H10O
product | 2-(1H-tetrazol-5-yl)acetanilide | 0.917 g, 90% | N1N=NN=C1CC(=O)NC1=CC=CC=C1 | C9H9N5O
